US06040321
To a mixture of 2-amino-5-thiocyanatothiazole (15.7 g, 0.1 mol) and pyridine (12 g, 0.15 mol) in methylene chloride (100 mL) was added acetic anhydride (1.2 g, 0.12 mol) at rt. The mixture was stirred at rt for 6 h. The mixture was concentrated to dryness and to the residue MeOH (50 mL) was added. The precipitates were collected and washed with water. The solid was dried and recrystallized from MeOH to afford 2-acetylamino-5-thiocyanatothiazole (15.2 g, 76%) as a solid, mp 212° C. 1H NMR (CD3OD) δ7.79 (s, 1 H), 2.23 (s, 3 H).

reactant | 2-amino-5-thiocyanatothiazole | 0.1 mol, 15.7 g | NC=1SC(=CN1)SC#N | C4H3N3S2
reactant | pyridine | 0.15 mol, 12 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.12 mol, 1.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-acetylamino-5-thiocyanatothiazole | 15.2 g, 76% | C(C)(=O)NC=1SC(=CN1)SC#N | C6H5N3OS2
